US04851537
In 1.5 ml of methylene chloride was dissolved 100.8 mg (0.178 mmol) of (Z)-N-acetyl-6,7-dibenzyloxy-1-(3,4,5-trimethoxyphenylmethylene)-1,2,3,4-tetrahydroisoquinoline, and 7.5 ml of ethanol was further added thereto. A separately prepared solution of 2.9 mg (1.7×10-3 mmol) of Ru2Cl4 ((S)-(-)-BINAP)2N(C2H5)3 in 1.5 ml of methylene chloride was added to the above prepared solution, and the mixture was transferred to an autoclave. The mixture was subjected to hydrogenation at 23° C. for 62 hours at a hydrogen pressure of 4 kg/cm2 while stirring. After completion of the reaction, the solvent was removed by distillation, and the residue was purified by silica gel column chromatography (silica gel: 15 g, eluent: ethyl acetate/hexane=3:1 by volume) to give 92.8 mg (0.164 mmol) of (S)-N-acetyl-6,7-dibenzyloxy-1-(3,4,5-trimethoxyphenylmethyl)-1,2,3,4-tetrahydroisoquinoline in a yield of 92%. The optical rotation [α]D24 of this product was +62.8° (c=0.92, CHCl3).

reactant | (Z)-N-acetyl-6,7-dibenzyloxy-1-(3,4,5-trimethoxyphenylmethylene)-1,2,3,4-tetrahydroisoquinoline | 0.178 mmol, 100.8 mg | C(C)(=O)N1\C(\C2=CC(=C(C=C2CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=C/C1=CC(=C(C(=C1)OC)OC)OC | C35H35NO6
reactant | ethanol | 7.5 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-acetyl-6,7-dibenzyloxy-1-(3,4,5-trimethoxyphenylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.164 mmol, 92.8 mg, yield of 92% | C(C)(=O)N1[C@H](C2=CC(=C(C=C2CC1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CC1=CC(=C(C(=C1)OC)OC)OC | C35H37NO6
